US08445501B2
4-(2-Cyclopropylmethoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester
Starting from 4-chloro-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester and 2-(2-cyclopropylmethoxy-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (example A40) the title compound is obtained as colorless solid.

reactant | 4-chloro-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNC2=C1N=CN=C2Cl | C9H8ClN3O2
reactant | 2-(2-cyclopropylmethoxy-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | C1(CC1)COC1=C(C=CC=C1)B1OC(C(O1)(C)C)(C)C | C16H23BO3
product | 4-(2-Cyclopropylmethoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=C2)OCC2CC2 | C19H19N3O3
